US07250518B2
N-(2-Fluoro-4-hydroxy-benzyl)-2-(4-fluoro-phenoxy)-nicotinamide of Formula (6.0.49):
To 2-(4-fluoro-phenoxy)-nicotinic acid (20.47 g) were added anhydrous dichloromethane (200 mL), dimethylformamide (2 mL), and oxalyl chloride (2.0 M in dichloromethane, 46.10 mL) were then added. The solution was cooled in a dry ice/acetone bath. Triethylamine (24.5 mL) and 2-fluoro-4-hydroxy-benzylamine hydrochloride (7.81 g) were then added. The solution was allowed to warm to ambient temperature and stir overnight. The reaction was then diluted with 200 mL dichloromethane and washed with 100 mL water. The organic phase was dried over magnesium sulfate and concentrated in vacuo. The crude product was then taken up in a solution of tetrahydrofuran (50 mL) and methanol (25 mL). Lithium hydroxide (5.26 g) in water (25 mL) were then added to the mixture, and the reaction was allowed to stir overnight at ambient temperature. The solution was then concentrated in vacuo. The resulting residue was taken up in 100 mL water, and acidified with conc. aq. HCl to pH 4. The aqueous layer was then extracted with ethyl acetate (3×300 mL). The combined organics were dried over magnesium sulfate and concentrated in vacuo. Recrystallization from methanol yielded pure title compound (9.75 g)

reactant | 2-(4-fluoro-phenoxy)-nicotinic acid | 20.47 g | FC1=CC=C(OC2=C(C(=O)O)C=CC=N2)C=C1 | C12H8FNO3
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 2.0 M, 46.10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-fluoro-4-hydroxy-benzylamine hydrochloride | 7.81 g | Cl.FC1=C(CN)C=CC(=C1)O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | Triethylamine | 24.5 mL | C(C)N(CC)CC | C6H15N
product | N-(2-Fluoro-4-hydroxy-benzyl)-2-(4-fluoro-phenoxy)-nicotinamide | FC1=C(CNC(C2=C(N=CC=C2)OC2=CC=C(C=C2)F)=O)C=CC(=C1)O | C19H14F2N2O3
